US09422267B2
A mixture of 1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxylic acid (1 g, 2.8 mmol), morpholine (0.366 g, 4.2 mmol), HATU (1.28 g, 3 mmol) and DIPEA (0.58 g, 4 mmol) in DMF (5 mL) was allowed to stir at RT overnight. The reaction mixture was diluted with water (50 mL) and extracted with EtOAc (2×50 mL). The combined organic layer was washed with water (8×25 mL) and dried over anhydrous sodium sulfate. Removal of EtOAc gave an oily residue which was purified by reverse phase HPLC followed by chiral HPLC to afford 15 mg of (R)-(1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidin-2-yl)(morpholino)methanone, and its enantiomer. 1H NMR (400 MHz, CD3OD, freebase) δ (ppm): 1.29 (d, 6H), 1.92-2.15 (m, 5H), 2.30-2.42 (m, 1H), 2.67-2.81 (m, 4H), 2.90-3.04 (m, 1H), 3.41-3.90 (m, 10H), 4.98-5.08 (m, 1H), 5.85 (brs, 1H).

reactant | 1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxylic acid | 2.8 mmol, 1 g | C(C)(C)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1C(CCC1)C(=O)O)CCC2 | C18H24N6O2
reactant | morpholine | 4.2 mmol, 0.366 g | N1CCOCC1 | C4H9NO
reactant | HATU | 3 mmol, 1.28 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4 mmol, 0.58 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | (R)-(1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidin-2-yl)(morpholino)methanone | 15 mg | C(C)(C)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1[C@H](CCC1)C(=O)N1CCOCC1)CCC2 | C22H31N7O2
